US04119729
Reaction of the chlorohydrin derivative of 4-(methylsulfonyl)phenol with p-benzyloxyphenoxyethylamine in accordance with the procedure of Example 15 provides 3-[4-(METHYLSULFONYL)PHENOXY]-1-[(p-BENZYLOXYPHENOXYETHYL)AMINO]-2-PROPANOL.

reactant | 4-(methylsulfonyl)phenol | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | p-benzyloxyphenoxyethylamine | C(C1=CC=CC=C1)OC1=CC=C(OCCN)C=C1 | C15H17NO2
product | 3-[4-(METHYLSULFONYL)PHENOXY]-1-[(p-BENZYLOXYPHENOXYETHYL)AMINO]-2-PROPANOL | CS(=O)(=O)C1=CC=C(OCC(CNCCOC2=CC=C(C=C2)OCC2=CC=CC=C2)O)C=C1 | C25H29NO6S
